US06369272B1
Synthesis of (S)-[2-(1-iminoethylamino)ethyl]-L-homocysteine
To a solution of N-t-butoxycarbonyl cysteine t-butyl ester (prepared by reduction of N-t-butoxycarbonyl cystine t-butyl ester with dithiothreitol) (291 mg, 1 mmol) in dry toluene (20 ml) is added N-benzyloxycarbonyl ethanolamine tosylate (349 mg, 1 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (150 μL, 1 mmol) and the mixture stirred vigorously overnight at room temperature under nitrogen. The mixture is partitioned between 50 ml each of ethyl acetate and 1N aqueous HCl. A further organic extract is combined and these extracts washed with aqueous sodium bicarbonate, water and brine, then dried and evaporated. Purification by column chromatography affords the title compound.

reactant | N-t-butoxycarbonyl cysteine t-butyl ester | 1 mmol, 291 mg | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CS)=O | C12H23NO4S
reactant | N-benzyloxycarbonyl ethanolamine tosylate | 1 mmol, 349 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCCNC(=O)OCC1=CC=CC=C1 | C17H19NO5S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1 mmol, 150 μL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-[2-(1-iminoethylamino)ethyl]-L-homocysteine | N=C(C)NCCN[C@@H](CCS)C(=O)O | C8H17N3O2S
